US06077962
A mixture of N-neohexyl-L-aspartic acid dimethyl ester (15 g, 0.061 mol) in 1N hydrochloric acid (350 mL) was heated at reflux for 4 hours to form a clear solution. The mixture was freeze dried to give N-neohexyl-L-aspartic acid hydrochloride as a white solid (14 g, 91%), M.P. 133-138° C., [α]D +14.69 (c=1, water). Anal. Calc'd. for C10H19NO4 --HCl; C, 47.52; H, 7.92; N, 5.54; Cl, 14.05. Found: C, 47.84; H, 8.14; N, 5.31; Cl, 13.08.

reactant | N-neohexyl-L-aspartic acid dimethyl ester | 0.061 mol, 15 g | COC([C@@H](NCCC(C)(C)C)CC(=O)OC)=O | C12H23NO4
reactant | hydrochloric acid | 1N, 350 mL | Cl | ClH
product | N-neohexyl-L-aspartic acid hydrochloride | 14 g, 91% | Cl.C(CC(C)(C)C)N[C@@H](CC(=O)O)C(=O)O | InChI=1S/C10H19NO4.ClH/c1-10(2,3)4-5-11-7(9(14)15)6-8(12)13;/h7,11H,4-6H2,1-3H3,(H,12,13)(H,14,15);1H/t7-;/m0./s1
